US08304556B2
A-36a) 6-(tert-Butoxycarbonyl-ethyl-amino)-nicotinic acid
The crude 6-(tert-butoxycarbonyl-ethyl-amino)-nicotinic acid methyl ester is taken up in 100 mL dioxane and a solution of lithium hydroxide monohydrate (13.5 g, 0.32 mol) in 100 mL water is added and the reaction mixture is stirred at RT for 4 h. The dioxane is removed from the reaction mixture under reduced pressure, water is added and the reaction mixture is acidified to pH 6 with a solution of 10% citric acid in water. The formed precipitate is filtered off and dried in vacuo. Yield: 36 g. 1H NMR (DMSO-d6): δ 13.2 (s, 1H), 8.8 (s, 1H), 8.2 (d, 1H), 7.8 (d, 1H), 4.0 (quart, 2H), 1.5 (s, 9H), 1.2 (t, 3H).

reactant | 6-(tert-butoxycarbonyl-ethyl-amino)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)N(CC)C(=O)OC(C)(C)C)=O | C14H20N2O4
reactant | lithium hydroxide monohydrate | 0.32 mol, 13.5 g | O.[OH-].[Li+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 6-(tert-Butoxycarbonyl-ethyl-amino)-nicotinic acid | C(C)(C)(C)OC(=O)N(C1=NC=C(C(=O)O)C=C1)CC | C13H18N2O4
